US05021420
1-(4-Hydroxyphenyl)piperezine dihydrobromide may be prepared in the following manner: a 47% aqueous solution of hydrobromic acid (720 cc) is added, over 30 minutes and at a temperature of about 20° C., to 4-(4-methoxyphenyl)piperazine dihydrochloride (70 g). The mixture is heated at boiling point for 4 hours then cooled to a temperature of about 20° C. Stirring is continued for 15 hours at this temperature, then the mixture is concentrated at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residual oil is redissolved in acetonitrile (300 cc). The precipitate formed is separated by filtration, washed with acetonitrile (2 x 50 cc) and diisopropyl ether (2 x 100 cc). 4-(4-Hydroxyphenyl)piperazine dihydrobromide (85.2 g) (m.p. greater than 260° C.) is obtained and used in the crude state in the subsequent syntheses.

reactant | 4-(4-methoxyphenyl)piperazine dihydrochloride | 70 g | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | hydrobromic acid | 720 cc | Br | BrH
product | 4-(4-Hydroxyphenyl)piperazine dihydrobromide | 85.2 g | Br.Br.OC1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C10H14N2O.2BrH/c13-10-3-1-9(2-4-10)12-7-5-11-6-8-12;;/h1-4,11,13H,5-8H2;2*1H
